US05200553
(1-Butyroxy)ethyl ethyl carbonate
To a solution of butyric acid (0.58 g., 6.55 mmol.) and 1-chloroethyl ethyl carbonate (1 g., 6.55 mmol.) in acetonitrile (15 ml.) is added water (2 drops), benzyltrimethylammonium hydroxide (2 drops of 40% aqueous solution) and potassium hydroxide (0.44 g., 7.86 mmol.). The reaction mixture is stirred under reflux for 4 hours, it is filtered, and ether is added to the filtrate. The combined organic phase is thrice washed with water, dried over magnesium sulfate and filtered. The filtrate is concentrated in vacuo and the residue is distilled at 75° C. in a Kugelrohr apparatus at 0.1 mm. Hg. Yield 0.57 g. (42.7%). VPC chromatography on a 4 m, 20% Carbowax 20M on Chromosorb WAW, temperature 110° C., flow rate 65 ml./min., gave a retention time of 66.6 minutes. 1H-NMR ppm (CDCl3): 6.77 (q. J=5 Hz, 1H), 4.22 (q. J= 7 Hz, 2H), 2.32 (t, J=7.5 Hz, 2H), 1.66 (sextet, J=7.5 Hz, 2H), 1.52 (d, J=5.5 Hz. 3H), 1.318 (t, J=7.5 Hz, 3H). 0.95 (t. J=7.5 Hz, 3H).

reactant | butyric acid | 6.55 mmol, 0.58 g | C(CCC)(=O)O | C4H8O2
reactant | 1-chloroethyl ethyl carbonate | 6.55 mmol, 1 g | C(OC(C)Cl)(OCC)=O | C5H9ClO3
reactant | potassium hydroxide | 7.86 mmol, 0.44 g | [OH-].[K+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
catalyst | water | 2 drops | O | H2O
catalyst | benzyltrimethylammonium hydroxide | 2 drops | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
product | (1-Butyroxy)ethyl ethyl carbonate | C(OC(C)OC(CCC)=O)(OCC)=O | C9H16O5
